US05159079
5-Hydroxymethyl-2-piperidone
Solid lithium aluminum hydride (3.5 g) was added slowly to a solution of 15.0 g 5-ethoxycarbonyl-2-piperidone in 350 ml THF at -4° C. After stirring for 1 hour under a nitrogen atmosphere, the reaction was decomposed by dropwise addition of 3.5 ml water, 3.5 ml 5N NaOH and 10.5 ml water. The mixture was filtered and the granular precipitate washed with 100 ml THF. Evaporation of the combined filtrate and washings provided 6.0 g of the title compound: MS m/z 130 (M+ +1), 129 (M+), 128 (M+ -1) 101, 73, 56; 90-MHz 1H NMR (CDCl3) δ1.42-1.60 (m, 1 H), 1.60-2.05 (m, 2 H), 2.10-2.47 (m, 2 H), 3.05 (t, J=9 Hz, 1 H), 3.21-3.58 (m, 4 H), 6.85 (s, 1 H).

reactant | lithium aluminum hydride | 3.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-ethoxycarbonyl-2-piperidone | 15.0 g | C(C)OC(=O)C1CCC(NC1)=O | C8H13NO3
reactant | water | 3.5 ml | O | H2O
reactant | NaOH | 5N, 3.5 ml | [OH-].[Na+]
reactant | water | 10.5 ml | O | H2O
solvent | THF | 350 ml | C1CCOC1 | C4H8O
product | 5-Hydroxymethyl-2-piperidone | 6.0 g | OCC1CCC(NC1)=O | C6H11NO2
